US04933355
2-p-Fluoroanilinothiazole-4-carbaldehyde
The reaction described in Preparation 44 was repeated, but using 3.03 g of 2-p-fluoroanilinothiazol-4-ylmethanol, 8.5 g of pyridine sulfur trioxide complex, 7.5 ml of triethylamine and 140 ml of dimethyl sulfoxide. giving the title compound as pale brown prisms.

reactant | 2-p-fluoroanilinothiazol-4-ylmethanol | 3.03 g | FC1=CC=C(NC=2SC=C(N2)CO)C=C1 | C10H9FN2OS
reactant | triethylamine | 7.5 ml | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 140 ml | CS(=O)C | C2H6OS
product | 2-p-Fluoroanilinothiazole-4-carbaldehyde | FC1=CC=C(NC=2SC=C(N2)C=O)C=C1 | C10H7FN2OS
